US07087754B2
4-(2-Furyl)-N-(2-hydroxyethyl)-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (Example 3)
A solution of 6-chloro-4-(2-furyl)-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidine (162 mg, 0.5 mmol) in NMP (1 mL) was treated with ethanolamine (60 μL, 1 mmol), heated at 100° C. for 16 h, cooled and purified by chromatography (EtOAc:Heptane, 2:1). The resulting colourless oil was crystallised (MeOH/water) and filtered to give the title compound (100 mg, 57%) as a white solid.

reactant | 6-chloro-4-(2-furyl)-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.5 mmol, 162 mg | ClC1=NC(=C2C(=N1)N(N=C2)CCC2=CC=CC=C2)C=2OC=CC2 | C17H13ClN4O
reactant | ethanolamine | 1 mmol, 60 μL | C(O)CN | C2H7NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(2-Furyl)-N-(2-hydroxyethyl)-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 100 mg, 57% | O1C(=CC=C1)C1=C2C(=NC(=N1)NCCO)N(N=C2)CCC2=CC=CC=C2 | C19H19N5O2
